US04145347
From 8.5 g. of ethyl 2-oxo-1-pyrrolidineacetate and 12.9 g. of 2-(diisobutylamino)ethylamine (British Pat. No. 614,164), following the procedure of Example 1, there is obtained N-[2-[bis(2-methylpropyl)amino]ethyl]-2-oxo-1-pyrrolidineacetamide; b.p. 155°-160° C./0.1 mm.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2-(diisobutylamino)ethylamine | C(C(C)C)N(CCN)CC(C)C | C10H24N2
product | N-[2-[bis(2-methylpropyl)amino]ethyl]-2-oxo-1-pyrrolidineacetamide | CC(CN(CCNC(CN1C(CCC1)=O)=O)CC(C)C)C | C16H31N3O2
